US07875636B2
To a mixture of 4-biphenylacetic acid (2.00 g, 9.42 mmol), (1R)-1-(5-methoxypyridin-2-yl)ethanamine hydrochloride (1.96 g, 10.36 mmol), 1-hydroxy-7-azabenzotriazole (1.70 g, 12.49 mmol) and diisopropyl-ethyl amine (5.20 ml, 31.46 mmol) in DMF (55 ml) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.40 g, 12.52 mmol) at room temperature. The reaction was stirred for 18 hours and then washed with saturated sodium bicarbonate solution and brine. Organics were extracted with EtOAc, dried over Na2SO4, filtered and concentrated in vacuo. Purification by normal phase chromatography (0-80% EtOAc/Hex) afforded 2-(1,1′-biphenyl-4-yl)-N-[(1R)-1-(5-methoxypyridin-2-yl)ethyl]acetamide as a yellow solid. 1H NMR (CDCl3, 400 MHz) δ 8.16 (s, 1H); 7.58 (m, 4H); 7.44 (m, 2H); 7.34 (m, 3H); 7.14 (m, 2H); 6.78 (d, J=6.80 Hz, 1H); 5.10 (m, 1H); 3.83 (s, 3H); 3.63 (s, 2H); 1.41 (d, J=6.80 Hz, 3H). MS (Electrospray): m/z 347.1 (M+H).

reactant | 4-biphenylacetic acid | 9.42 mmol, 2.00 g | C1(=CC=C(C=C1)CC(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | (1R)-1-(5-methoxypyridin-2-yl)ethanamine hydrochloride | 10.36 mmol, 1.96 g | Cl.COC=1C=CC(=NC1)[C@@H](C)N
reactant | 1-hydroxy-7-azabenzotriazole | 12.49 mmol, 1.70 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | diisopropyl-ethyl amine | 31.46 mmol, 5.20 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 12.52 mmol, 2.40 g | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 55 ml | CN(C)C=O | C3H7NO
product | 2-(1,1′-biphenyl-4-yl)-N-[(1R)-1-(5-methoxypyridin-2-yl)ethyl]acetamide | C1(=CC=C(C=C1)CC(=O)N[C@H](C)C1=NC=C(C=C1)OC)C1=CC=CC=C1 | C22H22N2O2
